US07361675B2
3-Methylthio-5-(2,3-difluorophenyl)-1,2,4-thiadiazole was dissolved in 14 ml of chloroform, and 279 mg of m-chloroperoxybenzoic acid (65%<) was added thereto. The mixture was stirred for 7 hours with ice-cooling, and allowed to stand at room temperature overnight. Then, the reaction mixture was added to an aqueous sodium bicarbonate solution, and layers were separated. The organic layer was concentrated. Further, toluene was added to the residue, and the mixture was concentrated. To the resulting residue were added 2 ml of N,N-dimethylformamide and 59 mg of 2-butyne-1-ol, and 59 mg of sodium hydride (60% oily) was added thereto with ice-cooling. The mixture was stirred at the same temperature for 30 minutes, and further stirred at room temperature for 3 hours. Then, the reaction mixture was poured into an aqueous saturated sodium chloride solution, and the mixture was extracted with t-butyl methyl ether. The residue obtained by concentration of the organic layer was purified by silica gel column chromatography to obtain 95 mg of 5-(2,3-difluorophenyl)-3-(2-butynyloxy)-1,2,4-thiadiazole (the compound (16) of the present invention).

reactant | 3-Methylthio-5-(2,3-difluorophenyl)-1,2,4-thiadiazole | CSC1=NSC(=N1)C1=C(C(=CC=C1)F)F | C9H6F2N2S2
reactant | m-chloroperoxybenzoic acid | 279 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 14 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(2,3-difluorophenyl)-3-(2-butynyloxy)-1,2,4-thiadiazole | 95 mg | FC1=C(C=CC=C1F)C1=NC(=NS1)OCC#CC | C12H8F2N2OS
